US06693123B2
Methyl 4-Nitro-2-(1-naphthyl)benzoate
Methyl 2-bromo-4-nitrobenzoate (3.86 g, 14.85 mmol) was coupled with 1-naphthylboronic acid (3.06 g, 17.79 mmol) in DMF in the presence of K2CO3 (3.0 eq) and Pd(PPh3)4 (0.03 eq) at 110° C. for 15 hrs. After flash column chromotography purification, the desired compound was obtained as a pale yellow oil (3.86 g, yield 85%). 1H NMR (CDCl3) δ 8.34 (d, J=8.5 Hz, 1H), 8.28 (s, 1H), 8.14 (d, J=8.5 Hz, 1H), 7.92 (m, 2H), 7.47-7.56 (m, 2H), 7.41 (d, J=3.8 Hz, 2H), 7.34 (d, J=6.8 Hz, 1H), 3.40 (s, 3H); 13C NMR (CDCl3) δ 166.4, 149.2, 142.7, 137.2, 136.8, 133.2, 131.3, 131.0, 128.6, 128.4, 126.6, 126.2, 126.0, 125.0, 124.7, 122.3, 52.3.

reactant | Methyl 2-bromo-4-nitrobenzoate | 14.85 mmol, 3.86 g | BrC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C8H6BrNO4
reactant | 1-naphthylboronic acid | 17.79 mmol, 3.06 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | K2CO3 | 3.0 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.03 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 4-Nitro-2-(1-naphthyl)benzoate | [N+](=O)([O-])C1=CC(=C(C(=O)OC)C=C1)C1=CC=CC2=CC=CC=C12 | C18H13NO4
